US04282226
2-(Hydroxymethyl)pyrazolo[1,5-c]quinazoline-5(6H)-thione
0.519 g (0.0019 mole) of 5,6-dihydro-5-thioxopyrazolo-[1,5-c]quinazoline-2-carboxylic acid ethyl ester is suspended in 10 ml distilled tetrahydrofuran and treated with 0.1 g (0.004 mole) of 85% lithium borohydride at room temperature. After 20 hours of stirring, the reaction mixture is cooled to 0°, 4.5 ml of 1N hydrochloric acid is added and stirring is continued for 30 minutes. 25 ml of water is added and the product is filtered off after 10 minutes and dried.

reactant | 5,6-dihydro-5-thioxopyrazolo-[1,5-c]quinazoline-2-carboxylic acid ethyl ester | 0.0019 mole, 0.519 g | C(C)OC(=O)C1=NN2C(NC=3C=CC=CC3C2=C1)=S | C13H11N3O2S
reactant | lithium borohydride | 0.004 mole, 0.1 g | [BH4-].[Li+]
reactant | hydrochloric acid | 1N, 4.5 ml | Cl | ClH
solvent | water | 25 ml | O | H2O
product | 2-(Hydroxymethyl)pyrazolo[1,5-c]quinazoline-5(6H)-thione | OCC1=NN2C(NC=3C=CC=CC3C2=C1)=S | C11H9N3OS
